US06174884B1
5-Amino-3-methyl-1-(2-octyl)-1-H-pyrazole-4-carboxamide
4.72 g (34.66 mmol) of 2-(1-ethoxy-ethylidene)-malononitrile and 5.00 g (34.66 mmol) of (1-methyl-heptyl)-hydrazine are refluxed for 4 hours in 40 ml of methanol. After the solvent has been removed in vacuo, 8.23 g of a red oil are obtained. This is dissolved in 250 ml of ethanol and, after 300 ml of concentrated NH3 solution (25% strength) and 70 ml of hydrogen peroxide solution (30% strength) have been added, the solution is stirred for 65 hours at room temperature. After the non-aqueous solvents have been removed, the mixture is extracted three times with dichloromethane, and the organic phase is dried over sodium sulphate and evaporated on a rotary evaporator. This gives 7.75 g (87%) of a red oil.

reactant | 2-(1-ethoxy-ethylidene)-malononitrile | 34.66 mmol, 4.72 g | C(C)OC(C)=C(C#N)C#N | C7H8N2O
reactant | (1-methyl-heptyl)-hydrazine | 34.66 mmol, 5.00 g | CC(CCCCCC)NN | C8H20N2
reactant | NH3 | 300 ml | N | H3N
reactant | hydrogen peroxide | 70 ml | OO | H2O2
solvent | methanol | 40 ml | CO | CH4O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-Amino-3-methyl-1-(2-octyl)-1-H-pyrazole-4-carboxamide | NC1=C(C(=NN1C(C)CCCCCC)C)C(=O)N | C13H24N4O
